US07968570B2
7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid hydrazide
7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid methyl ester (190.0 mg, 0.5 mmol) was mixed with hydrazine (in water) 125.0 mg, 2.50 mmol) in ethanol (0.5 mL) and the reaction was refluxed for five hours. The reaction was concentrated to provide the title compound as an off white solid (200.0 mg, 100%). 1H NMR (300 MHz, CDCl3): δ 7.63 (s, 1H), 7.54 (broad s, 1H), 7.31 (m, 2H), 7.18 (d, 2H), 4.75 (s, 2H), 4.22 (s, 2H), 2.74 (s, 3H).

reactant | 7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid methyl ester | 0.5 mmol, 190.0 mg | COC(=O)C=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C19H16F3NO4
reactant | hydrazine | 2.50 mmol, 125.0 mg | NN | H4N2
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
product | 7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindole-5-carboxylic acid hydrazide | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C(=O)NN | C18H16F3N3O3
